US07074800B1
6-Methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazolin-4-one (2.24 g, 6.6 mmol) was taken up in thionyl chloride (25 ml) and treated with DMF (5 drops). The resulting solution was then heated at reflux for 1 hour followed by cooling to ambient temperature. The excess thionyl chloride was removed by evaporation followed by azeotroping with toluene (3×). The residue was basified with saturated aqueous sodium hydrogen carbonate solution (to pH8) and extracted twice with ethyl acetate. The organic solution was washed with water, brine, dried (MgSO4) and evaporated to dryness to give 4-chloro-6-methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazoline (1.90 g, 80%).

reactant | 6-Methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazolin-4-one | 6.6 mmol, 2.24 g | COC=1C=C2C(NC=NC2=CC1OCCCN(S(=O)(=O)C)C)=O | C14H19N3O5S
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
product | 4-chloro-6-methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazoline | 1.90 g, 80% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN(S(=O)(=O)C)C | C14H18ClN3O4S
